US09056863B2
A mixture of 2-chloro-4-iodo-benzoic acid (470 mg) in thionyl chloride (6 mL) was stirred at 60° C. for 3 h. The excess thionyl chloride was removed in vacuo. The residue was washed with ether and dried to afford 2-chloro-4-iodo-benzoyl chloride (0.5 g), which was used directly in the next step where it was dissolved in 1,4-dioxane (10 mL). Phosphoryl chloride (5 mL) and IId (246 mg) were added, and the mixture was stirred at 90° C. for 1.5 h. The volatiles were removed in vacuo. The residue was partitioned between water and DCM. The organic layer was washed with sat. aq. NaHCO3, dried over NaSO4, filtered, and concentrated in vacuo. The residue was purified by column chromatography on silica gel (eluent: pentane:EtOAc 10:1 to 5:1) to afford example Id7 (250 mg). LC/MS (method WXE-AB10): RT(PDA)=2.26 min; PDA/ELS purities 99%/99%; mass observed 422.0.

reactant | 2-chloro-4-iodo-benzoic acid | 470 mg | ClC1=C(C(=O)O)C=CC(=C1)I | C7H4ClIO2
reactant | thionyl chloride | 6 mL | S(=O)(Cl)Cl | Cl2OS
product | 2-chloro-4-iodo-benzoyl chloride | 0.5 g | ClC1=C(C(=O)Cl)C=CC(=C1)I | C7H3Cl2IO
